US06710069B2
Preparation of 2-{[1-(Phenylsulfonyl)-1H-indole-4-yl]oxy}ethylazide
A suspension of 4-(2-chloroethoxy)-1-(phenylsulfonyl)-1H-indole (3.35 g, 10 mmol) and sodium azide (1.95 g, 30 mmol) in anhydrous dimethylformamide is stirred under nitrogen for 20 hr at 60° C., poured into water and extracted with diethyl ether. The extracts are combined, washed sequentially with 1N HCl, H2O and saturated NaCl, dried over MgSO4 and concentrated in vacuo to afford the title product as an off-white solid, 3.3 g (96%), identified by NMR and mass spectral analyses.

reactant | 4-(2-chloroethoxy)-1-(phenylsulfonyl)-1H-indole | 10 mmol, 3.35 g | ClCCOC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C16H14ClNO3S
reactant | sodium azide | 30 mmol, 1.95 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-{[1-(Phenylsulfonyl)-1H-indole-4-yl]oxy}ethylazide | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCN=[N+]=[N-] | C16H14N4O3S
